US06921759B2
Step 1: [(7-{[(4-Fluorobenzyl)amino]carbonyl}-8-hydroxy[1,6]naphthyridin-5-yl)sulfanyl]acetic acid
A mixture of 5-bromo-N-(4-fluorobenzyl)-8-hydroxy-[1,6]naphthyridine-7-carboxamide (0.40 g, 1.05 mmol), mercaptoacetic acid (0.11 mL, 1.60 mmol), triethylamine (0.59 mL, 4.2 mmol) in diglyme (2.5 mL) was heated with stirring at 130° C. under an atmosphere of nitrogen for 18 hours. The product mixture was treated with 1 M aq HCl at 0° C. The resulting yellow solid was filtered, washed with diethyl ether to provide the title acid.

reactant | 5-bromo-N-(4-fluorobenzyl)-8-hydroxy-[1,6]naphthyridine-7-carboxamide | 1.05 mmol, 0.40 g | BrC1=C2C=CC=NC2=C(C(=N1)C(=O)NCC1=CC=C(C=C1)F)O | C16H11BrFN3O2
reactant | mercaptoacetic acid | 1.60 mmol, 0.11 mL | SCC(=O)O | C2H4O2S
reactant | triethylamine | 4.2 mmol, 0.59 mL | C(C)N(CC)CC | C6H15N
reactant | HCl | 1 M | Cl | ClH
solvent | diglyme | 2.5 mL | COCCOCCOC | C6H14O3
product | [(7-{[(4-Fluorobenzyl)amino]carbonyl}-8-hydroxy[1,6]naphthyridin-5-yl)sulfanyl]acetic acid | FC1=CC=C(CNC(=O)C2=NC(=C3C=CC=NC3=C2O)SCC(=O)O)C=C1 | C18H14FN3O4S
